US06015774
Then, 20 g of concentrated sulfuric acid was added to 1.03 g of water, to which 17 g of 2-amino-2-(4-chloro-2-fluorophenyl)acetonitrile was added under ice cooling, and the mixture was heated at 50° to 60° C. under stirring for 3 hours. After completion of the reaction, the reaction mixture was poured into 100 ml of concentrated ammonia water cooled with ice in such a manner that the temperature of the solution became not higher than 20° C. The precipitated crystals were collected by filtration, and the filtrate was extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried with anhydrous magnesium sulfate, and concentrated. The residue was combined with the previously collected crystals, followed by recrystallization, which afforded 15.3 g (yield, 82%) of 2-amino-2-(4-chloro-2-fluorophenyl)acetamide.

reactant | sulfuric acid | 20 g | S(O)(O)(=O)=O | H2O4S
reactant | 2-amino-2-(4-chloro-2-fluorophenyl)acetonitrile | 17 g | NC(C#N)C1=C(C=C(C=C1)Cl)F | C8H6ClFN2
reactant | ammonia water | 100 ml | O.N
solvent | water | 1.03 g | O | H2O
product | 2-amino-2-(4-chloro-2-fluorophenyl)acetamide | 15.3 g, 82% | NC(C(=O)N)C1=C(C=C(C=C1)Cl)F | C8H8ClFN2O
